US04024249
1.5 ml of triethylamine, 1.6 ml of N,N-dimethylaniline and 2.3 ml of trimethylchlorosilane are added to a suspension of 2.0 g of 7-amino-3-(1-methyl-1H-tetrazol-5-ylthio)-methylceph-3-em-4-carboxylic acid in 60 ml of methylene chloride. The mixture is warmed to 40° C over the course of 20 minutes whilst stirring, and is then cooled to -10° C. A solution of 2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetic acid chloride in 20 ml of methylene chloride, which has been prepared in the manner described in Example 2 from 1.95 g of 2(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetic acid, is then added. The whole is stirred for 2 hours at 0°-25° C and poured into water, the mixture is adjusted to approx. pH 7 with sodium bicarbonate, extracted with methylene chloride and carefully acidified with concentrated hydrochloric acid and the precipitate formed is filtered off. The filter residue is washed with water and dried in vacuo at room temperature. The dried intermediate product is dissolved in 5 ml of trifluoroacetic acid whilst stirring and after 10 minutes the solution is concentrated in vacuo with repeated addition of toluene. The residue is stirred with 50 ml of methanol and filtered and the filtrate is adjusted to approx. pH 6 with triethylamine and left in a refrigerator for 2 hours. Filtration and washing of the filter residue with a little methanol and ether gives 7β-[2-(5-aminomethyl-2-thienyl)-acetylamino]-3-[(1-methyl-1H-tetrazol-5-ylthio)-methyl]-ceph-3-em-4-carboxylic acid; thin layer chromatogram (silica gel; acetonitrile/water, 4:1): Rf = 0.25; ultraviolet absorption spectrum (in 0.01 N aqueous sodium bicarbonate solution): λmax = 242 mμ (ε = 14,100); infrared absorption spectrum (in mineral oil): bands at 3.07μ, 5.64μ, 5.97μ, 6.26μ, 6.64μ etc.

reactant | N,N-dimethylaniline | 1.6 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | trimethylchlorosilane | 2.3 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | 7-amino-3-(1-methyl-1H-tetrazol-5-ylthio)-methylceph-3-em-4-carboxylic acid | 2.0 g | NC1[C@@H]2N(C(=C(C(S2)C)SC2=NN=NN2C)C(=O)O)C1=O | C10H12N6O3S2
reactant | 2-(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetic acid chloride | C(C)(C)(C)OC(=O)NCC1=CC=C(S1)CC(=O)Cl | C12H16ClNO3S
reactant | 2(5-tert.-butoxycarbonylaminomethyl-2-thienyl)-acetic acid | 1.95 g | C(C)(C)(C)OC(=O)NCC1=CC=C(S1)CC(=O)O | C12H17NO4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 7β-[2-(5-aminomethyl-2-thienyl)-acetylamino]-3-[(1-methyl-1H-tetrazol-5-ylthio)-methyl]-ceph-3-em-4-carboxylic acid | NCC1=CC=C(S1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O | C17H19N7O4S3
